US07728029B2
Cyclopentyl-hydrazine hydrochloride (1.000 g; 7.32 mmol), ethyl (ethoxymethylene)-cyanoacetate (1.026 g, 6.61 mmol) and anhydrous sodium acetate (0.644 g, 7.85 mmol) were combined in ethanol (10 mL) and heated at 70° C. for 20 hours. After cooling to room temperature, ethanol was removed in vacuo and the residue was partitioned between methylene chloride and water. The organic phase was washed sequentially with water and brine. Each aqueous phase was back extracted with a single portion of methylene chloride. The two organic phases were combined, dried over sodium sulfate and concentrated. Purification by flash chromatography, eluting with 10-40% EtOAc/hexanes yielded 5-amino-1-cyclopentyl-1H-pyrazole-4-carboxylic acid ethyl ester (1.170 g, 73%). Mass spectrum: m/z: 224.1 (M+H).

reactant | Cyclopentyl-hydrazine hydrochloride | 7.32 mmol, 1.000 g | Cl.C1(CCCC1)NN
reactant | ethyl (ethoxymethylene)-cyanoacetate | 6.61 mmol, 1.026 g | C(C)OC=C(C(=O)OCC)C#N | C8H11NO3
reactant | sodium acetate | 7.85 mmol, 0.644 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 5-amino-1-cyclopentyl-1H-pyrazole-4-carboxylic acid ethyl ester | 1.170 g, 73% | C(C)OC(=O)C=1C=NN(C1N)C1CCCC1 | C11H17N3O2
